US08486946B2
Step 3: Preparation of 9-fluoro-2-(2-fluorophenyl)-5-{[4-(1H-imidazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo-[4,3-c]cinnolin-3-one
4-Diazo-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one (0.17 g, 0.56 mmol) was dissolved in acetonitrile (5 mL) and treated with tri-n-butylphosphine (0.11 g, 0.56 mmol, 1.0 equiv). After stirring for 30 minutes at ambient temperature, 1-[4-(chloromethyl)phenyl]-1H-imidazole (0.11 g, 0.56 mmol, 1.0 equiv), potassium iodide (47 mg, 0.28 mmol, 0.5 equiv) and potassium carbonate (97 mg, 0.70 mmol, 1.25 equiv) were added at ambient temperature. After 45 minutes, the reaction mixture was warmed to 85° C., stirred for 2.5 hours and then cooled to ambient temperature. The mixture was poured into water (100 mL), extracted with ethyl acetate (2×75 mL) and the combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified twice by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 10% methanol; and then 100:0 to 90:10; dichloromethane:methanol containing 10% ammonium hydroxide), providing the titled compound as a deep red solid: 1H-NMR (400 MHz, CDCl3) δ 8.33 (1H, dd, J=7.6, 1.8 Hz), 7.85 (1H, br s), 7.67-7.53 (4H, m), 7.46 (2H, d, J=8.5 Hz), 7.40 (2H, d, J=8.5 Hz), 7.42-7.37 (1H, m), 7.31-7.20 (4H, m), 5.88 (2H, s) ppm; high resolution mass spectrometry (ES+) m/z 437.1526 [(M+H)+; calculated for C25H18FN6O: 437.1521].

reactant | 4-Diazo-2,5-bis(2-fluorophenyl)-2,4-dihydro-3H-pyrazol-3-one | 0.56 mmol, 0.17 g | [N+](=[N-])=C1C(N(N=C1C1=C(C=CC=C1)F)C1=C(C=CC=C1)F)=O | C15H8F2N4O
reactant | tri-n-butylphosphine | 0.56 mmol, 0.11 g, 1.0 equiv | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1-[4-(chloromethyl)phenyl]-1H-imidazole | 0.56 mmol, 0.11 g, 1.0 equiv | ClCC1=CC=C(C=C1)N1C=NC=C1 | C10H9ClN2
reactant | potassium iodide | 0.28 mmol, 47 mg, 0.5 equiv | [I-].[K+]
reactant | potassium carbonate | 0.70 mmol, 97 mg, 1.25 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 9-fluoro-2-(2-fluorophenyl)-5-{[4-(1H-imidazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo-[4,3-c]cinnolin-3-one | FC=1C=2C=3C(=NN(C2C=CC1)CC1=CC=C(C=C1)N1C=NC=C1)C(N(N3)C3=C(C=CC=C3)F)=O | C25H16F2N6O
